US05721230
A solution of 6.3 g (22.6 mmol) of ethyl 1-phenylindole-3-acetate in 20 ml of ethanol was treated with 20 ml (40 mmol) of 2M sodium hydroxide solution and left at room temperature for 17 hours. Ethanol was removed under reduced pressure and the aqueous solution was washed with two 20 ml portions of diethyl ether. The aqueous phase was acidified with concentrated hydrochloric acid and the suspension obtained was stored at 0° C. for 2 hours. The suspension was filtered and the solid was crystallized from methanol/water (2:1) to give 5.6 g 1-phenylindole-3-acetic acid as a blue-grey solid of melting point 131°-135° C.

reactant | ethyl 1-phenylindole-3-acetate | 22.6 mmol, 6.3 g | C1(=CC=CC=C1)N1C=C(C2=CC=CC=C12)CC(=O)OCC | C18H17NO2
reactant | sodium hydroxide | 40 mmol, 2M, 20 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-phenylindole-3-acetic acid | 5.6 g | C1(=CC=CC=C1)N1C=C(C2=CC=CC=C12)CC(=O)O | C16H13NO2
